US06143760
Di-tert-butyl dicarbonate (1.77 g, 8.1 mmol) was added to a stirring mixture of 4-(methylaminomethyl)-benzonitrile (1.13 g, 7.7 mmol) and iN NaOH (15 mL) in 1,4-dioxane (15 mL) at ambient temperature. The reaction mixture was stirred for 2 h, poured into saturated aqueous sodium chloride, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to give 1.81 g of crude 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile. The crude material was filtered through a 1" silica gel pad, first eluting with hexane, then with ether. The ether filtrate was concentrated to give pure 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile as a colorless oil. To this was added 10% Pd/C (170 mg) and ethanol in a Paar bottle. The mixture was shaken under hydrogen (50 PSI) for 4.5 h, then filtered through Celite and concentrated in vacuo. The residue was taken up in ethanol, cooled in an ice bath, and 1.0 M HCl in ether (10 mL) was added dropwise. The resulting precipitate was filtered and dried in a vacuum oven to give 1.346 g of 4-[(N-tert-butoxycarbonyl)-methylaminomethyl)-benzylamine hydrochloride as a pale gray solid.

reactant | Di-tert-butyl dicarbonate | 8.1 mmol, 1.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(methylaminomethyl)-benzonitrile | 7.7 mmol, 1.13 g | CNCC1=CC=C(C#N)C=C1 | C9H10N2
reactant | sodium chloride | [Cl-].[Na+]
solvent | NaOH | 15 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-{N-(tert-butoxycarbonyl)-methylaminomethyl]benzonitrile | 1.81 g | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C#N)C=C1 | C14H18N2O2
